US07557103B2
Preparation of 3-(6-chloro-1-methyl-1H-indol-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a solution of 3-(6-chloro-1H-indol-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.050 g, 0.14 mmol) and DMF (2 mL) is added 60% NaH (0.013 g, 0.33 mmol). The solution is stirred for 30 minutes and MeI (0.010 mL, 0.16 mmol) is added. The solution is stirred for 1 hour, diluted with EtOAc (20 mL), washed with water (2×10 mL), brine (10 mL), dried over MgSO4, filtered and concentrated. The residue is purified by silica gel chromatography (30%-50% EtOAc gradient) to furnish the title compound (0.021 g, 0.055 mmol, 40%). 1H NMR (CDCl3), δ 0.90 (t, J=7.4 Hz, 6H), 1.75-1.95 (m, 4H), 2.49 (s, 3H), 2.51 (s, 3H), 3.31-3.40 (m, 1H), 3.57 (s, 3H), 6.65 (d, J=0.9 Hz, 1H), 6.72 (s, 1H), 7.12 (dd, J=8.4, 1.8 Hz, 1H), 7.40-7.42 (m, 1H), 7.58 (8.4 Hz, 1H) ppm. LC/MS (m/z): calcd. for C22H25ClN4 (M+H)+: 380.2. found: 381.2.

reactant | 3-(6-chloro-1H-indol-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.14 mmol, 0.050 g | ClC1=CC=C2C=C(NC2=C1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C21H23ClN4
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | NaH | 0.33 mmol, 0.013 g | [H-].[Na+]
reactant | MeI | 0.16 mmol, 0.010 mL | CI | CH3I
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3-(6-chloro-1-methyl-1H-indol-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.055 mmol, 0.021 g, 40% | ClC1=CC=C2C=C(N(C2=C1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C22H25ClN4
